*****************************************************************
* NXP BUK7Y41-80E
*
* Polarity N-Channel
* Ratings 80V/4.100000E-002OHMS/25.0244119370973A
*
* Date Created Tue Feb 05 02:54:24 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y41-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5.3e-10
RLS2 SOURCE 8 1.33203528512207
RLS1 8 7 0.0002

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0196051822605676 TC=0.00570879668408088,1.99418845435486E-05
RBD 9 4 0.00232826699996443 TC=0.00570879668408088,1.99418845435486E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.6e-10
RG 1 2 1.80663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	760.805
+ -10	758.674
+ -8	751.789
+ -6	742.807
+ -5	740.003
+ -4	730.68
+ -3	699.899
+ -2	586.399
+ -1	414.026
+ -0.5	287.59
+ -0.2	232.838
+ -0.1	231.5
+ 0	200.32386
+ 0.1	171.29064
+ 0.2	171.07492
+ 0.5	153.272
+ 1	131.7302
+ 2	103.81983
+ 3	94.50978
+ 4	89.68105
+ 5	86.32821
+ 6	83.76039
+ 8	79.91374
+ 10	76.94409
+ 12	74.45701
+ 15	71.33946
+ 16	70.38649
+ 20	67.2411
+ 25	64.05341
+ 30	61.51084
+ 50	55.23247



.MODEL MINT NMOS(Vto=3.45912112862719 Kp=1.593907e+001 Nfs=800000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=9.49368497034779e-14
+ N=1 M=0.59 VJ=0.59 Fc=0.5 Cjo=3.4154572e-10 Tt=2.402392e-08)

.ENDS

